US07812028B2
c) 5-(4-Chloro-phenyl)-6-cyclopropylmethoxy-nicotinic Acid
6-Chloro-5-(4-chloro-phenyl)-nicotinic acid (22.3 g, 0.083 mol) was dissolved in dimethylsulfoxide (130 mL). To this solution was added (hydroxymethyl)cyclopropane (10.1 g, 0.125 mol) and potassium hydroxide powder (18.7 g, 0.333 mol). This mixture was reacted (in ten portions) for 20 min in a microwave at 100° C. The reaction mixture was poured into ice-water (500 mL) and citric acid (10%, 3000 mL) was added with stirring. Stirring was continued for 30 min during which time the product precipitated. The product was filtered off washed with water and dissolved in ethylacetate (1500 mL). The solution was concentrated in vacuo and the title compound crystallized from the concentrated solution as a white solid (21.5 g); MS (ISP) 302.2 (M−H)

reactant | 6-Chloro-5-(4-chloro-phenyl)-nicotinic acid | 0.083 mol, 22.3 g | ClC1=NC=C(C(=O)O)C=C1C1=CC=C(C=C1)Cl | C12H7Cl2NO2
reactant | (hydroxymethyl)cyclopropane | 0.125 mol, 10.1 g | OCC1CC1 | C4H8O
reactant | potassium hydroxide | 0.333 mol, 18.7 g | [OH-].[K+]
reactant | citric acid | 3000 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethylsulfoxide | 130 mL | CS(=O)C | C2H6OS
product | 5-(4-Chloro-phenyl)-6-cyclopropylmethoxy-nicotinic Acid | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCC1CC1 | C16H14ClNO3
